US04555572
A mixture of 28.0 g of p-phenetidine, 23.6 g of 2,6-dichloro-3-nitrobenzoic acid, and 80 ml of N,N-dimethylaniline was heated five hours on a steam bath. The resulting mixture was diluted with chloroform and extracted with 1N sodium hydroxide. Acidification of the aqueous extract yielded 6-chloro-2-[(4-ethoxyphenyl)amino]-3-nitrobenzoic acid as reddish brown crystals.

reactant | p-phenetidine | 28.0 g | CCOC=1C=CC(=CC1)N | C8H11NO
reactant | 2,6-dichloro-3-nitrobenzoic acid | 23.6 g | ClC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
reactant | N,N-dimethylaniline | 80 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-chloro-2-[(4-ethoxyphenyl)amino]-3-nitrobenzoic acid | ClC1=CC=C(C(=C1C(=O)O)NC1=CC=C(C=C1)OCC)[N+](=O)[O-] | C15H13ClN2O5
